US04906634
4-[[Ethyl(4-nitrophenyl)amino]methyl]cyclohexanone
In a manner similar to Preparation 23 react 4-(hydroxymethyl)cyclohexanone with p-toluenesulfonyl chloride in pyridine to obtain the tosylate. The tosylate is further reacted with N-ethyl-4-nitrobenzenamine and sodium hydride in toluene as in Preparation 12 to obtain the title compound.

reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | N-ethyl-4-nitrobenzenamine | C(C)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-[[Ethyl(4-nitrophenyl)amino]methyl]cyclohexanone | C(C)N(C1=CC=C(C=C1)[N+](=O)[O-])CC1CCC(CC1)=O | C15H20N2O3
